Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim / Sulfa (Sulfonamide Antibiotics) / oxycodone / Avelox / 
moxifloxacin
 
Attending: ___
 
___ Complaint:
Aspiration
 
Major Surgical or Invasive Procedure:
ERCP with placement of 9cm by ___ ___ biliary stent 

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS: 
Mrs. ___ is a ___ year old woman with history of hypertension, 
mitral valve prolapse, severe MAC (admitted ___ and a 
recent diagnosis of likely colangiocarcinoma who presents to the 
ICU after a likely aspiration event following a palliative ERCP. 
Mrs. ___ was diagnosed with cholangiocarcinoma in ___ 
after having had a "side ___ for several weeks. An MRI showed 
likely colangiocarcinoma and CA ___ was elevated over 1000. 
Family didn't want anything done and she was presumed to have 
cholangiocarcinoma. However, over the last several weeks she had 
declining appetite, increasing nausea and vomiting, increasing 
fatigue, and was found to have elevated liver enzymes, alkphos, 
and bilirubin. A repeat MRI was consistent with Mirizzi Syndrome 
and the decision was made for her to be brought in for a 
palliative ERCP to relieve a stricture.

Her procedure went well an she was successfully stented, but 
during extubation there was concern for aspiration of gastric 
contents. In the PACU she was reported to have desaturations to 
the mid 80's and was taken to the FICU instead of the floor as 
planned

On arrival to the FICU, she is resting comfortably on 6L nasal 
cannula with her son in the room. She is coughing up some dark 
yellow sputum.
 
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies shortness of breath. Denies chest pain or 
tightness, palpitations. Denies vomiting, diarrhea, constipation 
or abdominal pain. No recent change in bowel or bladder habits. 
No dysuria. Denies arthralgias or myalgias.
 

 
Past Medical History:
HTN
HLD
Mitral Valve Prolapse
History of MAC with O2 requirement during sleep
Cholangiocarcinoma
Hx of Breast Cancer
Ankle Fracture
Hip replacement
Cataract Sugery

 
Social History:
___
Family History:
non-contributory

 
Physical Exam:
Admission Physical Exam
=======================
Vitals: 98.4 | 164/53 | 66 | 16 | 86% on 6L
GEN: Alert slightly jaundiced thin woman
HEENT: AT/NC, EOMI, left , slighltly icteric sclera, pink 
conjunctiva, MMM
NECK: nontender supple neck, no LAD, no JVD appreciated  
CARDIAC: RRR, S1/S2, no murmur appreciated
LUNG: Diffuse rhonchi, no wheezes, rales, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly appreciated
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  

Discharge Physical Exam
=======================
Vitals: Reviewed in metavision. Most recently 95%/2L
GEN: A&O2 (not oriented to time), thin jaundiced woman in no 
acute distress 
HEENT: AT/NC, EOMI, left , slighltly icteric sclera, pink 
conjunctiva, MMM
NECK: nontender supple neck, no LAD, no JVD appreciated  
CARDIAC: RRR, S1/S2, no murmur appreciated
LUNG: Slight crackles on left lower lobe, no wheezes, rales, 
breathing comfortably without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly appreciated
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  

PULSES: 2+ DP pulses bilaterally  

NEURO: CN II-XII intact  

 
Pertinent Results:
Admission Labs
==============
___ 03:00PM BLOOD WBC-7.8 RBC-3.95 Hgb-10.9* Hct-35.9 
MCV-91 MCH-27.6 MCHC-30.4* RDW-17.8* RDWSD-57.6* Plt ___
___ 03:00PM BLOOD UreaN-35* Creat-1.1 Na-135 K-6.6* Cl-97 
HCO3-23 AnGap-22*
___ 03:00PM BLOOD ALT-220* AST-220* AlkPhos-759* Amylase-43 
TotBili-2.1*
___ 08:37PM BLOOD Calcium-9.1 Phos-3.7 Mg-2.0

Discharge Labs
==============
___ 05:04AM BLOOD WBC-11.1* RBC-3.39* Hgb-9.3* Hct-30.8* 
MCV-91 MCH-27.4 MCHC-30.2* RDW-17.2* RDWSD-55.6* Plt ___
___ 05:04AM BLOOD Glucose-110* UreaN-32* Creat-0.9 Na-142 
K-3.7 Cl-104 HCO3-29 AnGap-13
___ 05:04AM BLOOD Calcium-8.7 Phos-3.7 Mg-1.9

Imaging and other studies:
=========================
___ CXR: Cardiomegaly is moderate.  There is enlargement of 
the pulmonary arteries. The aorta is very tortuous.  Ill-defined 
opacities in the left mid lung are concerning for aspiration.  
Biapical pleural parenchymal scarring is worse in the right 
side.  There is mild vascular congestion.  There is a small 
right pleural effusion.  There is no evident pneumothorax. 

 
Brief Hospital Course:
Mrs. ___ is a ___ year old woman with history of hypertension, 
mitral valve prolapse, severe MAC (admitted ___ and a 
recent diagnosis of likely cholangiocarcinoma who presents to 
the ICU after a likely aspiration event following a palliative 
ERCP and is stable on nasal cannula on arrival to the ICU.

Acute Problems
==============
# Aspiration with Acute Hypoxic Respiratory distress: Patient 
had witnessed aspiration event with acute hypoxic respiratory 
distress with desaturations to the low 80's. Patient was 
coughing and continuing to desat into the low 80's on arrival to 
the floor. Patient has decreased respiratory reserve at baseline 
with history of MAC (hospitalized ___ and uses O2 at night 
and daily duonebulizer treatments. Patient on 6L O2 at night and 
weaned to 2L prior to discharge with oxygen saturations in the 
mid 90's at rest. Desaturations to the high 80's with coughing 
and activity which appears to be baseline. Discharged home on 2L 
O2 per NC (baseline at nighttime 2L O2).
 
# Palliative ERCP for obstructing ERCP: Recommended course of 
Abx with ciprofloxacin, but patient with history of bad reaction 
to moxifloxacin. Will do 5 day course of Augmentin 250mg Q8hr 
for 5 days (___). Pain control with acetaminophen 650mg 
Q8hr prn. Will need to re-discuss ERCP in 4 weeks for stent pull 
as outpatient. Hold home aspirin per GI til ___. Clears today, 
advance as tolerated.

Chronic Problems
================
#HTN: continue home lisinopril and propanolol
#HYPOTHYRODISM: continue home levothyroxine
#GERD: home prilosec

Transitional Issues
===================
- No aspirin, Plavix, NSAIDS, Coumadin until ___ (5 days post 
ERCP)
- Augmentin 250mg TID x5 days with last dose ___ for post ERCP 
and stent placement
- Follow up with cytology reports. Please call Dr. ___ 
___ ___ in 7 days for the pathology results.
- Patient being discharged on 2L O2. Please wean oxygen as 
tolerated to baseline. O2 baseline saturations 93-94.
- Patient deconditioned and will benefit from physical therapy

CODE STATUS: DNR/DNI
CONTACT: Son ___ and daughter in law ___ ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Propranolol 40 mg PO BID 
3. Aspirin 81 mg PO DAILY 
4. Levothyroxine Sodium 88 mcg PO DAILY 
5. Omeprazole 40 mg PO DAILY 
6. Calcium Carbonate 500 mg PO DAILY 
7. Cyanocobalamin 250 mcg PO DAILY 
8. Pyridoxine 50 mg PO DAILY 
9. Vitamin D 1000 UNIT PO DAILY 
10. Ipratropium-Albuterol Neb 1 NEB NEB DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild  
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q8H 
RX *amoxicillin-pot clavulanate 250 mg-125 mg 1 tablet(s) by 
mouth three times a day Disp #*12 Tablet Refills:*0 
3.  Calcium Carbonate 500 mg PO DAILY  
4.  Cyanocobalamin 250 mcg PO DAILY  
5.  Ipratropium-Albuterol Neb 1 NEB NEB DAILY  
6.  Levothyroxine Sodium 88 mcg PO DAILY  
7.  Lisinopril 10 mg PO DAILY  
8.  Omeprazole 40 mg PO DAILY  
9.  Propranolol 40 mg PO BID  
10.  Pyridoxine 50 mg PO DAILY  
11.  Vitamin D 1000 UNIT PO DAILY  
12. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until ___

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis
# Aspiration
# Likely Cholangiocarcinoma
Secondary Diagnosis
# Hypothyroidism
# Hypertension

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

___ brought in to the hospital for an EGD with placement of a 
drain to help relieve pressure in gallbladder and help ___ feel 
better. The procedure went well. Afterwards when the breathing 
tube was being taken out, some of your stomach contents went 
into your lungs and made your breathing worse for a time. ___ 
were given oxygen overnight and felt much better in the morning 
with better oxygen of ___ lungs.

___ have been started on a short course of antibiotics following 
surgery which ___ should finish at home.

It has been a pleasure taking care of ___!

Sincerely,
Your ___ Healthcare Team
 
Followup Instructions:
___